US06667316B1
A mixture of (3R)-3-[4-(2-chloroacetylamino)-1,3-dioxoisoindolin-2-yl]-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethylpropanamide (8.10 g, 16.6 mmol) and dimethylamine in tetrahydrofuran (27 mL, 2N, 54 mmol) in acetonitrile (150 mL) was stirred at room temperature overnight. The solvent was removed in vacuo to give an oil. The oil was dissolved in ethyl acetate (150 mL), washed with sodium hydrogen carbonate (2×50 mL, sat), brine (50 mL), and dried over magnesium sulfate. The solvent was removed in vacuo to give a solid. The solid was purified by column chromatography (Silica Gel, 1.5% methanol in methylene chloride) to give (3R)-3-{4-[2-(dimethylamino)acetylamino]-1,3-dioxoisoindolin-2-yl}-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethylpropanamide as a white solid (6.3 g, 76% yield). To the solid in ethyl acetate (40 mL) was added hydrogen chloride in ether (20 mL, 1N). The suspension was filtered and washed with ether to give (3R)-3-{4-[2-(dimethylamino)acetylamino]-1,3-dioxoisoindolin-2-yl}-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethylpropanamide hydrogen chloride as a yellow solid (6.4 g, 72% yield); mp, 122-124° C.; 1H NMR (DMSO-d6) δ1.33 (t, J=7 Hz, 3H, CH3), 2.75 (s, 3H, CH3), 2.89 (s, 6H, 2CH3), 2.98 (s, 3H, CH3), 3.22 (dd, J=5.4, 16.5 Hz, 1H, CHH), 3.60 (dd, J=9.2, 16.5 Hz, 1H, CHH), 3.71 (s, 3H, CH3), 3.97 (q, J=7 Hz, 2H, CH2), 4.30 (s, 2H, CH2), 5.62 (dd, J=5.6, 8.7 Hz, 1H, NCH), 6.86-6.93 (m, 2H, Ar), 7.00 (s, 1H, Ar), 7.65 (t, J=7.1 Hz, 1H, Ar), 7.84 (t, J=7.5 Hz, 1H, Ar), 8.17 (d, J=7.9 Hz, 1H, Ar), 10.49 (s, 1H, ClH), 10.64 (s, 1H, NH); 13C NMR (DMSO-d6) δ14.72, 34.41, 34.81, 36.59, 43.21, 50.43, 55.53, 57.77, 63.78, 111.79, 112.38, 119.32, 119.45, 119.58, 127.97, 131.90, 131.95, 134.12, 135.77, 147.76, 148.47, 164.28, 167.24, 167.33, 169.15; Anal Calcd for C26H32N4O6+HCl+1.1H2O: C, 56.49; H, 6.42; N, 10.13; Cl, 6.41; H2O, 3.58. Found: C, 56.33; H, 6.61; N, 9.95; H2O, 3.51.

reactant | (3R)-3-[4-(2-chloroacetylamino)-1,3-dioxoisoindolin-2-yl]-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethylpropanamide | 16.6 mmol, 8.10 g | ClCC(=O)NC1=C2C(N(C(C2=CC=C1)=O)[C@H](CC(=O)N(C)C)C1=CC(=C(C=C1)OC)OCC)=O | C24H26ClN3O6
reactant | dimethylamine | CNC | C2H7N
reactant | tetrahydrofuran | 54 mmol, 2N, 27 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | (3R)-3-{4-[2-(dimethylamino)acetylamino]-1,3-dioxoisoindolin-2-yl}-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethylpropanamide | 6.3 g, 76% yield | CN(CC(=O)NC1=C2C(N(C(C2=CC=C1)=O)[C@H](CC(=O)N(C)C)C1=CC(=C(C=C1)OC)OCC)=O)C | C26H32N4O6
